* source I-NAND
M_M1         VOUT IN1 N53888 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M14         N53542 IN7 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M6         N54114 IN3 N54154 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M8         VOUT IN6 N53056 N53056 CMOSP  
+ L=.18u  
+ W=.2u         
V_V5         IN5 0  
+SIN 1.5 1.5 500k 0 0 0
M_M2         N53888 IN2 N54114 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_V3         IN3 0  
+SIN 1.5 1.5 500k 0 0 0
V_V6         IN6 0  
+SIN 1.5 1.5 500k 0 0 0
M_M3         VOUT IN2 N53056 N53056 CMOSP  
+ L=.18u  
+ W=.2u         
V_V4         IN4 0  
+SIN 1.5 1.5 500k 0 0 0
M_M4         VOUT IN3 N53056 N53056 CMOSP  
+ L=.18u  
+ W=.2u         
V_V7         IN7 0  
+SIN 1.5 1.5 500k 0 0 0
M_M11         VOUT IN1 N53056 N53056 CMOSP  
+ L=.18u  
+ W=.2u         
M_M7         N54154 IN4 N53250 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M9         VOUT IN5 N53056 N53056 CMOSP  
+ L=.18u  
+ W=.2u         
V_VDD         N53056 0 3.3
M_M12         VOUT IN4 N53056 N53056 CMOSP  
+ L=.18u  
+ W=.2u         
V_V1         IN1 0  
+SIN 1.5 1.5 1Meg 0 0 0
M_M5         VOUT IN7 N53056 N53056 CMOSP  
+ L=.18u  
+ W=.2u         
M_M10         N53250 IN5 N53536 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M13         N53536 IN6 N53542 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_V2         IN2 0  
+SIN 1.5 1.5 1Meg 0 0 0
